US08809447B2
To a 2-L flask was charged neopentyl glycol (208.3 g, 2.0 moles), toluene (250 mL), hydroquinone (0.5 g) and sodium methoxide (25% in methanol, 8 g). The mixture was heated to 60-65° C. and methyl methacrylate (120 g, 1.2 moles) was added dropwise over 1 hour. The reaction was held at 70° C. for one hour under moderate vacuum to remove methanol and low boilers. Reaction was worked up by washing with 2×250 mL water and 1×100 mL saturated sodium chloride solution at 70° C. Toluene was evaporated and the resulting crude product (166 g) distilled to provide 3-hydroxy-2,2-dimethylpropyl methacrylate of 97% GC assay. To a 300 mL flask was charged 3-hydroxy-2,2-dimethylpropyl methacrylate (11.5 g, 0.064 moles), methylene chloride (20 g), DMAP (0.01 g), hydroquinone (0.05 g) and the mixture cooled to 0-5° C. To this was added dropwise diketene (5.4 g) at <3° C. Reaction allowed to warm to room temperature and stir overnight. Reaction cooled to 0-5° C. and additional diketene (2 g) added to complete reaction. Once reaction was complete, the dichloromethane was removed at 60° C. with house vacuum. Crude product distilled via Kugelrohr distillation to provide desired product of 92.6% assay with 1.6% starting material remaining (GC assay).

reactant | neopentyl glycol | 2.0 moles, 208.3 g | OCC(C)(CO)C | C5H12O2
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium methoxide | 8 g | C[O-].[Na+]
reactant | methyl methacrylate | 1.2 moles, 120 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-2,2-dimethylpropyl methacrylate | C(C(=C)C)(=O)OCC(CO)(C)C | C9H16O3
